US05925661
A) N-(2-Bromo-5-isobutyl-4-nitrophenyl)-4-methylbenzenesulphonamide
This compound is prepared according to the procedure described in step A of Preparation 2.18, from 10 g of N-(4-nitrophenyl)-4-methylbenzenesulphonamide in 100 ml of THF and 42.6 ml of a 2M solution of isobutylmagnesium chloride in ether, followed by 4.4 ml of bromine and 23.4 ml of triethylamine. 5.9 g of the expected product are obtained, m.p.=170° C.

reactant | N-(4-nitrophenyl)-4-methylbenzenesulphonamide | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C13H12N2O4S
reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
reactant | bromine | 4.4 ml | BrBr | Br2
reactant | triethylamine | 23.4 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-(2-Bromo-5-isobutyl-4-nitrophenyl)-4-methylbenzenesulphonamide | 5.9 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])CC(C)C)NS(=O)(=O)C1=CC=C(C=C1)C | C17H19BrN2O4S
